US05849781
Stage A: methyl 2-methoxy-3-naphthoate
2-Hydroxy-3-naphthoic acid (18.8 g; 100 mmol), dimethyl sulfate (1 eq.) and anhydrous K2CO3 (4.8 eq.) in 500 cm3 of anhydrous acetone are maintained at reflux for 6 h. 25 cm3 of water are added to the cooled mixture, which is stirred at room temperaure for 2 h. After filtration, ether is added and the solution is dried over MgSO4. The solvent is evaporated off to give the compound, which is purified by flash chromatography on silica gel (eluent: ether/petroleum ether). Oil.

reactant | 2-Hydroxy-3-naphthoic acid | 100 mmol, 18.8 g | OC1=CC2=CC=CC=C2C=C1C(=O)O | C11H8O3
reactant | dimethyl sulfate | 1 eq. | S(=O)(=O)(OC)OC | C2H6O4S
reactant | K2CO3 | 4.8 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 25 cm3 | O | H2O
solvent | acetone | 500 cm3 | CC(=O)C | C3H6O
product | methyl 2-methoxy-3-naphthoate | COC1=CC2=CC=CC=C2C=C1C(=O)OC | C13H12O3
